US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl phenyl carbonate
Prepared according to procedures described above, using phenol with the intermediate (2S,4S)-1-iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl carbonochloridate. 1H NMR (CDCl3): δ 8.02 (s, 1H). 7.40 (t, J=8 Hz, 2H), 7.29-7.10 (m, 10H), 6.98 (d, J=7.2 Hz, 1H), 6.82 (d, J=6 Hz, 1H), 5.51-5.45 (m, 1H), 4.67-4.62 (m, 1H), 4.45-4.41 (m, 1H), 3.83-3.78 (m, 2H), 3.70-3.64 (m, 2H), 3.50 (t, J=4.8 Hz, 1H), 3.45 (s, 3H), 3.32-3.28 (m, 1H), 3.27 (s, 3H), 3.19-3.14 (m, 1H), 2.91-2.86 (m, 1H), 2.74 (s, 3H), 1.55 (s, 3H); MS for C32H37IN4O9S m/z: 782 (M+H)+.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | (2S,4S)-1-iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl carbonochloridate | C(O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C)(=O)Cl | C26H32ClIN4O8S
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl phenyl carbonate | C(O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C)(OC1=CC=CC=C1)=O | C32H37IN4O9S
